US04803211
To a mixture of 1.22 g of ethyl thioglycolate, 1.4 g of anhydrous potassium carbonate and 20 ml of N,N-dimethylformamide was added 5.3 g of p-xylene dichloride followed by stirring at room temperature overnight. To the reaction mixture was added 50 ml of toluene. The mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was applied to silica gel column chromatography. Elution with a mixture of toluene-ethyl acetate (9:1) gave 1.61 g of oily ethyl [(p-chloromethylbenzyl)thio]acetate.

reactant | ethyl thioglycolate | 1.22 g | C(CS)(=O)OCC | C4H8O2S
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | p-xylene dichloride | 5.3 g | [Cl-].[Cl-].C1(=CC=C(C=C1)C)C
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl [(p-chloromethylbenzyl)thio]acetate | 1.61 g | ClCC1=CC=C(CSCC(=O)OCC)C=C1 | C12H15ClO2S
